US08748613B2
2-(4-Fluorophenyl)-2-(piperidin-1-yl)acetic acid hydrochloride (255 mg, 0.93 mmol) was dissolved in dry THF (10 ml) and (R)-quinuclidin-3-ol (355 mg, 2.79 mmol), DCC (384 mg, 1.86 mmol), HOBt (285 mg, 1.86 mmol) were added. The mixture was stirred at room temperature for 16 hours. THF was evaporated and the residue was taken up with EtOAc and washed with sat. NaHCO3, water and brine. The organic phase was dried over Na2SO4, filtered and evaporated. The crude was purified by flash chromatography (DCM/MeOH/NH4OH=98/2/0.2) to obtain (R)-quinuclidin-3-yl 2-(4-fluorophenyl)-2-(piperidin-1-yl)acetate (126 mg, 39.0% yield) as a white solid.

reactant | 2-(4-Fluorophenyl)-2-(piperidin-1-yl)acetic acid hydrochloride | 0.93 mmol, 255 mg | Cl.FC1=CC=C(C=C1)C(C(=O)O)N1CCCCC1
reactant | (R)-quinuclidin-3-ol | 2.79 mmol, 355 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | DCC | 1.86 mmol, 384 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 1.86 mmol, 285 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-(4-fluorophenyl)-2-(piperidin-1-yl)acetate | 126 mg, 39.0% yield | FC1=CC=C(C=C1)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCCCC2 | C20H27FN2O2
